US07576086B2
A mixture of 3-chloromethylpyridine and piperazine hexahydrate was treated according to the general preparation 1 to obtain N-(3-pyridylmethyl) piperazine trihydrochloride (62%). A mixture of the above product (3 mmol) and 2-chloro-1-phenylethanol (3.2 mmol) was treated according to the general preparation 2 to obtain the N1-(3-pyridylmethyl)-N4-phenacyl piperazine trihydrochloride (0.85 g, 2 mmol), which was reduced according to the general preparation 3 to obtain 0.61 g of the title compound, yield 72%, mp. 180-182° C.).

reactant | 3-chloromethylpyridine | ClCC=1C=NC=CC1 | C6H6ClN
reactant | piperazine hexahydrate | O.O.O.O.O.O.N1CCNCC1
product | N-(3-pyridylmethyl) piperazine trihydrochloride | 62% | Cl.Cl.Cl.N1=CC(=CC=C1)CN1CCNCC1 | InChI=1S/C10H15N3.3ClH/c1-2-10(8-12-3-1)9-13-6-4-11-5-7-13;;;/h1-3,8,11H,4-7,9H2;3*1H
